US06642228B1
3-(1-(3-(4-Phenylpiperidyl)propyl)-4-piperidyl)indole Hydrochloride
To a suspended solution of 4-(3-indolyl)piperidine (2.0 g, 10 mmol) and 1-(3-chloropropyl)-4-phenylpiperidine hydrochloride (3.1 g, 11.2 mmol) in DMF (60 mL) was added potassium carbonate (5.5 g, 40 mmol), and the mixture was stirred at 100° C. for 4 hours. After the precipitated salt was filtered off, the filtrate was concentrated, water (50 mL) was added to the filtrate, and the mixture was extracted with chloroform. After drying over anhydrous sodium sulfate, the chloroform layer was concentrated to afford a crude product. The crude product was purified by column chromatography on a silica gel (silica gel NH-DM 1020 produced by Fuji Silysia Chemical Ltd., eluent; chloroform) and was then recrystallized from ethyl acetate to afford a free form (1.6 g, yield: 40%) of the title compound as white crystals. After adding hydrochloric acid/methanol to a solution of the free form (1.6 g) in methanol, the mixture was concentrated and was then recrystallized from methanol/ether to afford the title compound (1.8 g) as white crystals.

reactant | 4-(3-indolyl)piperidine | 10 mmol, 2.0 g | N1C=C(C2=CC=CC=C12)C1CCNCC1 | C13H16N2
reactant | 1-(3-chloropropyl)-4-phenylpiperidine hydrochloride | 11.2 mmol, 3.1 g | Cl.ClCCCN1CCC(CC1)C1=CC=CC=C1
reactant | potassium carbonate | 40 mmol, 5.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 3-(1-(3-(4-Phenylpiperidyl)propyl)-4-piperidyl)indole Hydrochloride | 1.6 g, yield: 40% | Cl.C1(=CC=CC=C1)C1CCN(CC1)CCCN1CCC(CC1)C1=CNC2=CC=CC=C12 | InChI=1S/C27H35N3.ClH/c1-2-7-22(8-3-1)23-11-17-29(18-12-23)15-6-16-30-19-13-24(14-20-30)26-21-28-27-10-5-4-9-25(26)27;/h1-5,7-10,21,23-24,28H,6,11-20H2;1H
